### PR TITLE
[Merged by Bors] - feat: port AlgebraicGeometry.PresheafedSpace.Gluing

### PR DESCRIPTION
**Pull request by jjaassoonn**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/PresheafedSpace/Gluing.lean [hunk 1]
```diff
@@ -172,28 +186,49 @@ lemma itself is separated below.
...
-  replace eq := concrete_category.congr_arg (𝖣.t i k).base Eq
-  change ((π₂ i, j, k) ≫ D.t i k).base y = (D.t k i ≫ D.t i k).base x at eq 
-  rw [𝖣.t_inv, id_base, TopCat.id_app] at eq 
-  subst Eq
-  use (inv (D.t' k i j)).base y
-  change (inv (D.t' k i j) ≫ π₁ k, i, j).base y = _
-  congr 2
-  rw [is_iso.inv_comp_eq, 𝖣.t_fac_assoc, 𝖣.t_inv, category.comp_id]
+  fconstructor
+  -- Porting note : I don't what the magic was in Lean3 proof, it just skipped the proof of `eq`
```
Comment (jcommelin) [inline Mathlib/AlgebraicGeometry/PresheafedSpace/Gluing.lean:192]:
```suggestion
  -- Porting note : I don't know what the magic was in Lean3 proof, it just skipped the proof of `eq`
```

File: Mathlib/AlgebraicGeometry/PresheafedSpace/Gluing.lean [hunk 2]
```diff
@@ -295,161 +336,186 @@ abbrev diagramOverOpenπ {i : D.J} (U : Opens (D.U i).carrier) (j : D.J) :=
...
 
-/-- `ι_inv_app` is the left inverse of `D.ι i` on `U`. -/
+/-- `ιInvApp` is the left inverse of `D.ι i` on `U`. -/
 theorem ιInvApp_π {i : D.J} (U : Opens (D.U i).carrier) :
-    ∃ eq, D.ιInvApp U ≫ D.diagramOverOpenπ U i = (D.U i).Presheaf.map (eqToHom Eq) := by
-  constructor
-  delta ι_inv_app
+    ∃ eq, D.ιInvApp U ≫ D.diagramOverOpenπ U i = (D.U i).presheaf.map (eqToHom eq) := by
+  fconstructor
+  -- Porting note : I don't what the magic was in Lean3 proof, it just skipped the proof of `eq`
```
Comment (jcommelin) [inline Mathlib/AlgebraicGeometry/PresheafedSpace/Gluing.lean:419]:
```suggestion
  -- Porting note : I don't know what the magic was in Lean3 proof, it just skipped the proof of `eq`
```

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge

**Comment by jcommelin** [comment]
bors d+

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
